US07129232B2
The crude residue containing ethyl 3-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-oxopropanoate was dissolved in N,N-dimethylformamide (20 ml), and trityl chloride (5.52 g) and triethylamine (4.14 ml) were added with stirring. The mixture was stirred overnight and quenched with water (10 ml). The whole mixture was extracted with ethyl acetate, and the extract was washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure to give a residual oil, which was chromatographed on silica gel eluting with dichloromethane-ethyl acetate (2:3) to give ethyl 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoate (1.23 g).

reactant | ethyl 3-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-3-oxopropanoate | NC1=C(C=NN1C)NC(CC(=O)OCC)=O | C9H14N4O3
reactant | trityl chloride | 5.52 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 4.14 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 3-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-oxopropanoate | 1.23 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(CC(=O)OCC)=O | C28H28N4O3
